US07618961B2
3-Chloro-N-{4-[2-(2-hydroxy-3-oxo-4-morpholinyl)ethyl]-1,3-thiazol-2-yl}-2-methylbenzenesulfonamide
To a slurry of EXAMPLE 208A (0.759 g, 2.02 mmol) in ethyl acetate (6 mL) and saturated sodium carbonate (6 mL) at 0° C., 2,2-dichloroacetic acid chloride was added neat in portions (15×40 μl 3 eq.). The mixture was stirred for 1.5 h at room temperature. The reaction mixture was then extracted with ethyl acetate (3×40 mL), washed with brine (40 mL), and dried over magnesium sulfate. The solvent was evaporated and 1.10 g of crude N-acetylated product was isolated as yellow oil (70% pure by HPLC). The crude 2,2-Dichloro-N-[2-(2-{[(3-chloro-2-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)ethyl]-N-(2-hydroxyethyl)acetamide (1.00 g, 2.05 mmol) was dissolved in THF (27 mL) and water (27 mL). The solution was cooled to 0° C. and the pH was adjusted to 14-15 with aqueous KOH (50%). After 20 h, the reaction mixture was neutralized with aqueous HCl (1 M, 12 mL). The reaction mixture was extracted with ethyl acetate (3×25 mL), and the combined organic phases was dried over magnesium sulfate. Removal of solvent and purification by silica gel chromatography (gradient of 2-4% methanol in DCM) gave the title compound as a white solid (20 mg): HRMS calcd (found) for C16H18ClN3O5S2 m/z 431.0376 (431.0380).

reactant | 2,2-dichloroacetic acid chloride | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 2,2-Dichloro-N-[2-(2-{[(3-chloro-2-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)ethyl]-N-(2-hydroxyethyl)acetamide | 2.05 mmol, 1.00 g | ClC(C(=O)N(CCO)CCC=1N=C(SC1)NS(=O)(=O)C1=C(C(=CC=C1)Cl)C)Cl | C16H18Cl3N3O4S2
reactant | KOH | [OH-].[K+]
reactant | HCl | 1 M, 12 mL | Cl | ClH
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium carbonate | 6 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 27 mL | C1CCOC1 | C4H8O
solvent | water | 27 mL | O | H2O
product | 3-Chloro-N-{4-[2-(2-hydroxy-3-oxo-4-morpholinyl)ethyl]-1,3-thiazol-2-yl}-2-methylbenzenesulfonamide | 20 mg | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)CCN1C(C(OCC1)O)=O)C | C16H18ClN3O5S2
